US07728137B2
Tris(6-(2-hydroxyphenyl)-2-pyridyl)phosphine oxide, (PPL-01)
A mixture of 30.0 g (50 mmol) of tris(6-(2-methoxyphenyl)-2-pyridyl)phosphine oxide and 104.0 g (900 mmol) of pyridinium hydrochloride was stirred at 130° C. for 12 h. After the melt had been cooled to 80° C., it was admixed with 300 ml of water and then with a solution of 44.9 g (800 mmol) of potassium hydroxide in 100 ml of water. The aqueous phase was extracted three times with 500 ml of dichloromethane. The combined organic phases were washed three times with 500 ml of water. After the organic phase had been dried over magnesium sulfate and the dichloromethane had been removed, the oily residue was taken up in 100 ml of methyl tert-butyl ether and admixed with 100 ml of n-heptane. After standing for 12 h, the colorless crystals were filtered off with suction and recrystallized from methyl tert-butyl ether/n-heptane. The yield was 10.9 g (39.1%) at a purity of greater than 99.0% by 1H NMR.

reactant | tris(6-(2-methoxyphenyl)-2-pyridyl)phosphine oxide | 50 mmol, 30.0 g | COC1=C(C=CC=C1)C1=CC=CC(=N1)P(C1=NC(=CC=C1)C1=C(C=CC=C1)OC)(C1=NC(=CC=C1)C1=C(C=CC=C1)OC)=O | C36H30N3O4P
reactant | pyridinium hydrochloride | 900 mmol, 104.0 g | Cl.[NH+]1=CC=CC=C1
reactant | potassium hydroxide | 800 mmol, 44.9 g | [OH-].[K+]
solvent | water | 100 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | Tris(6-(2-hydroxyphenyl)-2-pyridyl)phosphine oxide | OC1=C(C=CC=C1)C1=CC=CC(=N1)P(C1=NC(=CC=C1)C1=C(C=CC=C1)O)(C1=NC(=CC=C1)C1=C(C=CC=C1)O)=O | C33H24N3O4P
